US09328096B2
Methyl 2-chloro-5-(6-(2,2-difluoroethyl)pyridin-2-yl)benzoate
To a solution of methyl 2-chloro-5-(6-(2,2-difluorovinyl)pyridin-2-yl)benzoate (Preparation 33, 105 mg, 0.34 mmol) in EtOAc (1 mL) was added 10% palladium on alumina (36 mg, 0.03 mmol) and stirred at room temperature under 15 psi of hydrogen for 2 hours. The reaction was filtered and concentrated in vacuo. The residue was purified using silica gel column chromatography eluting with 0-20% EtOAc in heptanes to afford the title compound.

reactant | methyl 2-chloro-5-(6-(2,2-difluorovinyl)pyridin-2-yl)benzoate | 0.34 mmol, 105 mg | ClC1=C(C(=O)OC)C=C(C=C1)C1=NC(=CC=C1)C=C(F)F | C15H10ClF2NO2
reactant | hydrogen | [H][H] | H2
solvent | EtOAc | 1 mL | CCOC(=O)C | C4H8O2
catalyst | palladium on alumina | 0.03 mmol, 36 mg | [Pd] | Pd
product | Methyl 2-chloro-5-(6-(2,2-difluoroethyl)pyridin-2-yl)benzoate | ClC1=C(C(=O)OC)C=C(C=C1)C1=NC(=CC=C1)CC(F)F | C15H12ClF2NO2
